US05047411
A mixture of 2-[2-{3-hydroxy-4-(3-methylureido)phenyl}ethyl]-7-methoxy-3-methylimidazo[1,2-a]pyridine (1.9 g) and polyphosphate ester (15 g) was stirred for 1.5 hours at 130° C. To the reaction mixture was added a mixture of ethyl acetate and water, and the mixture was adjusted to pH 1 with 6N hydrochloric acid. The separated aqueous layer was adjusted to pH 8 with aqueous potassium carbonate solution. The aqueous mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran with salting-out technique. The extract was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was triturated with a mixture of diethyl ether and ethyl acetate, and the resulting precipitate was crystallized from a mixture of methanol, ethyl acetate and isopropyl ether to give 6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-methylaminobenzoxazole (0.26 g).

reactant | 2-[2-{3-hydroxy-4-(3-methylureido)phenyl}ethyl]-7-methoxy-3-methylimidazo[1,2-a]pyridine | 1.9 g | OC=1C=C(C=CC1NC(=O)NC)CCC=1N=C2N(C=CC(=C2)OC)C1C | C19H22N4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-methylaminobenzoxazole | 0.26 g | COC1=CC=2N(C=C1)C(=C(N2)CCC2=CC1=C(N=C(O1)NC)C=C2)C | C19H20N4O2
